US06002008
4-[(3-Fluorophenyl)amino]-6,7-dimethoxy-3-quinolinecarbonitrile
A mixture of 1.00 g of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile, 0.89 g of 3-fluoroaniline, 0.32 ml of pyridine, and 12 ml of ethoxyethanol was stirred at reflux temperature for 4 h. The mixture was cooled and partitioned with dichloromethane and aqueous sodium bicarbonate. The organic layer was washed with water, dried and evaporated. The residue was recrystallized from ethyl acetate to give a solid, mp 226-230° C.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1.00 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 3-fluoroaniline | 0.89 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | ethoxyethanol | 12 ml | C(C)OC(C)O | C4H10O2
solvent | pyridine | 0.32 ml | N1=CC=CC=C1 | C5H5N
product | 4-[(3-Fluorophenyl)amino]-6,7-dimethoxy-3-quinolinecarbonitrile | FC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C18H14FN3O2
